US04883815
120 ml of 2N hydrochloric acid are added to a solution of 23.8 g (0.06 ml) of N-[3-[(11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecin-4(1H)-yl)-carbonyl]propyl]acetamide in 240 ml of tetrahydrofuran and the mixture is stirred at room temperature for 8 days. The solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Recrystallization from methanol/ether gives 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamic acid as beige crystals with melting point 108°.

reactant | hydrochloric acid | 2N, 120 ml | Cl | ClH
reactant | N-[3-[(11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecin-4(1H)-yl)-carbonyl]propyl]acetamide | 0.06 ml, 23.8 g | ClC1=CC2=C(C(CCCN(C(CC2)=O)C(=O)CCCNC(C)=O)=O)C=C1 | C19H23ClN2O4
reactant | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamic acid | C(C)(=O)NCCCC(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C19H25ClN2O5
